US07132426B2
Step 1: Preparation of 5-amino-1-(4-methanesulfonyl-phenyl)-1H-pyrazole-4-carbonitrile.
A round-bottomed flask (100 mL), equipped with a reflux condenser and N2 inlet septum, was charged with 4-(methylsulfonyl)phenylhydrazine hydrochloride (2 g, 9 mmol), and sodium methoxide (0.49 g, 9 mmol). Methanol (20 mL) was added under a stream of nitrogen at room temperature. The reaction mixture was stirred for 15–20 minutes until the purple color disappeared and a white precipitate was formed. This was followed by the addition of ethoxymethylenemalononitrile (1.1 g, 9 mmol) and stirring at room temperature for an additional 10 mins, subsequently the reaction mixture was brought to reflux for 150 mins. The cooled reaction mixture was filtered and concentrated under reduced pressure to afford the crude product. The solid residue was dissolved in EtOAc/H2O. The EtOAc layer was collected, washed with saturated aqueous NaCl, dried over NaSO4 and concentrated to give second portion of the crude product. The crude product was purified by flash chromatography (10% CH3OH/CH2Cl2) and recrystallized from methanol to give a yellow crystalline product (625 mg, 26%). 1H NMR (DMSO-d6, 400 MHz) δ 3.27 (s, 3H), 6.98 (s, 2H), 7.81 (d, 2H), 7.88 (s, 1H), 8.06 (s, 2H). LCMS: calculated for C11H10N4O2S 262.05, observed 262.9 (MH+)

reactant | 4-(methylsulfonyl)phenylhydrazine hydrochloride | 9 mmol, 2 g | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
reactant | sodium methoxide | 9 mmol, 0.49 g | C[O-].[Na+]
reactant | Methanol | 20 mL | CO | CH4O
reactant | ethoxymethylenemalononitrile | 9 mmol, 1.1 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | EtOAc H2O | CCOC(=O)C.O
product | 5-amino-1-(4-methanesulfonyl-phenyl)-1H-pyrazole-4-carbonitrile | 625 mg, 26% | NC1=C(C=NN1C1=CC=C(C=C1)S(=O)(=O)C)C#N | C11H10N4O2S
